US05457196
Dissolve 5-(carboxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene (3.95 g, 23.5 mmol) in methanol (60 mL) and treat with dimethoxypropane (5.8 mL, 47 mmol) and sulfuric acid (0.8 mL). Stir at room temperature for 6 days. Evaporate the solvent in vacuo, dilute with methylene chloride (75 mL) and wash with saturated sodium hydrogen carbonate (35 mL). Extract the aqueous phase with methylene chloride (30 mL), wash combined organics with brine (30 mL) and dry (Na2SO4). Evaporate the solvent in vacuo and pass through a plug of silica gel to give 5-(carbomethoxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene.

reactant | 5-(carboxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene | 23.5 mmol, 3.95 g | C(=O)(O)C1CC=2C(=CSC2)C1 | C8H8O2S
reactant | dimethoxypropane | 47 mmol, 5.8 mL | COC(C)(C)OC | C5H12O2
reactant | sulfuric acid | 0.8 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 60 mL | CO | CH4O
product | 5-(carbomethoxy)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene | C(=O)(OC)C1CC=2C(=CSC2)C1 | C9H10O2S
